US04851519
A mixture of 1.436 g of N-benzoyl-2'-deoxy-5-ethylcytidine, 1.072 g of triphenylphosphine, 1.304 g of sodium azide and 1.360 g of carbon tetrabromide in 16 ml of dimethylformamide was stirred at room temperature for 20 hours. 8 ml of methanol were added, the mixture was stirred for 30 minutes and then evaporated. The residue was suspended in 80 ml of water and extracted three times with 100 ml of ethyl acetate each time. The combined ethyl acetate extracts were washed with water and evaporated. The residue was subjected to flash chromatography on a column of silica gel using ethyl acetate for the elution, there being obtained 1 g of 5'-azido-4-N-benzoyl-2',5'-dideoxy-5-ethylcytidine in the form of a white crystalline solid of melting point 125°-126° C.

reactant | N-benzoyl-2'-deoxy-5-ethylcytidine | 1.436 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1CC)=O | C18H21N3O5
reactant | triphenylphosphine | 1.072 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium azide | 1.304 g | [N-]=[N+]=[N-].[Na+]
reactant | carbon tetrabromide | 1.360 g | C(Br)(Br)(Br)Br | CBr4
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | methanol | 8 ml | CO | CH4O
product | 5'-azido-4-N-benzoyl-2',5'-dideoxy-5-ethylcytidine | 1 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(NC(C2=CC=CC=C2)=O)C(=C1)CC)O | C18H20N6O4
